US04772607
8-cyclopentyl-3,7-dihydro-1,3-bis(2-propenyl)-1H-purine-2,6-dione;
N-[3-(dimethylamino)propyl]-4-(2,3,6,7-tetrahydro-2,6-dioxo-1,3-di-2-propenyl-1H-purine-8-yl)benzenesulfonamide, or the monohydrochloride salt thereof and

reactant | N-[3-(dimethylamino)propyl]-4-(2,3,6,7-tetrahydro-2,6-dioxo-1,3-di-2-propenyl-1H-purine-8-yl)benzenesulfonamide | CN(CCCNS(=O)(=O)C1=CC=C(C=C1)C1=NC=2N(C(N(C(C2N1)=O)CC=C)=O)CC=C)C | C22H28N6O4S
reactant | monohydrochloride | Cl | ClH
product | 8-cyclopentyl-3,7-dihydro-1,3-bis(2-propenyl)-1H-purine-2,6-dione | C1(CCCC1)C1=NC=2N(C(N(C(C2N1)=O)CC=C)=O)CC=C | C16H20N4O2
